US07378447B2
To a mixture of 2-aminoethanethiol hydrochloride (4.07 g, 35.6 mmol) in dioxane (75 mL) at 50° C., add sodium hydride (60% in mineral oil, 2.84 g, 71.0 mmol) at room temperature under nitrogen. Allow the reaction to stir for 5 minutes and add 2-chloropyridine (3.5 mL, 37 mmol) to the mixture. Reflux the mixture for 24 hours and cool to room temperature. Add water (100 mL), and methylene chloride (300 mL) to this mixture. Extract the aqueous layer with methylene chloride (3×50 mL). Wash the combined organic phase with brine (200 mL), dry over magnesium sulfate, filter and concentrate to an orange oil. Flash chromatography on silica gel eluting with 50% (80:18:12 CHCl3/MeOH/concentrated NH4OH)/methylene chloride affords the title compound as a yellow oil (1.67 g, 30%). 1H NMR (CDCl3) δ 8.43 (m, 1H), 7.44 (m, 1H), 7.21 (m, 1H), 6.97 (m, 1H), 3.30 (m, 2H), 3.02 (m, 2H); MS (ES) m/z:═155 [C7H10N2S+H]+. Add 2-thioacetyl-isoindole-1,3-dione (0.7 g, 3.2 mmol) to a solution of 2-(pyridin-2-ylsulfanyl)ethylamine (0.5 g, 3.2 mmol) in CHCl3 (20 mL) at 0° C. After 15 minutes, concentrate and purify the residue by flash chromatography on silica gel eluting with 40% EtOAc/Hex containing 2% NH4OH to afford N-(2-(pyridin-2-ylsulfanyl)ethyl)thioacetamide (0.4 g, 58%) as a pale yellow oil. 1H NMR (CDCl3) δ 10.26 (br s, 1H), 8.41-8.43 (m, 1H), 7.57 (dt, J=7.35 Hz, J=1.8 Hz, 1H), 7.31 (dd, J=8.10 Hz, J=0.96 Hz, 1H), 7.09-7.13 (m, 1H), 3.87-3.92 (m, 2H), 3.40-3.43 (m, 2H), 2.53 (s, 3H); MS (APCI): m/z 213 (M+H).

reactant | 2-thioacetyl-isoindole-1,3-dione | 3.2 mmol, 0.7 g | C(C)(=S)N1C(C2=CC=CC=C2C1=O)=O | C10H7NO2S
reactant | 2-(pyridin-2-ylsulfanyl)ethylamine | 3.2 mmol, 0.5 g | N1=C(C=CC=C1)SCCN | C7H10N2S
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-(pyridin-2-ylsulfanyl)ethyl)thioacetamide | 0.4 g, 58% | N1=C(C=CC=C1)SCCNC(C)=S | C9H12N2S2
